US05352784
1-(3-Chloropropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine
Dimethylformamide was added dropwise to 4-amino-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline-1-propanol (1.06 g) until a solution was obtained. Thionyl chloride (0.63 mL) was added and the reaction mixture was heated for 45 minutes before being evaporated to dryness. The residue was taken up in ice water then made basic with saturated sodium bicarbonate solution. The resulting precipitate was collected and dried to provide 0.32 g of a dark brown solid. This material was purified by silica gel column chromatography eluting with 85:15 methylene chloride:methanol to provide 0.28 g of the desired product as a solid m.p. 245°-247° C. Analysis: Calculated for C13ClH17N4 +1.5H2 0: % C, 53.51; % H, 6.91; % N, 19.2; Found: % C, 53.81; % H, 6.25; % N, 18.86.

reactant | 4-amino-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline-1-propanol | 1.06 g | NC1=NC=2CCCCC2C2=C1N=CN2CCCO | C13H18N4O
reactant | Thionyl chloride | 0.63 mL | S(=O)(Cl)Cl | Cl2OS
solvent | Dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(3-Chloropropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 0.32 g | ClCCCN1C=NC=2C(=NC=3CCCCC3C21)N | C13H17ClN4
